US05914328
89a. 3-((1,5-dimethyl-2-(S)-pyrrolidinyl)methoxy)pyridine
A 1.24 g (6.0 mmol) sample of 3-(1-methyl-2-oxo-5-(S)-pyrrolidinylmethoxy)-pyridine, prepared as in Example 22b above, was dissolved in 50 mL of ether and cooled to -78° C. To this solution was added 4.71 mL (6.6 mmol) of methyl lithium, and the solution was warmed to room temperature and stirred for 2 hours. The solution was cooled to 0° C., 66 mL of a 1M solution of LAlH4 was added, and the reaction mixture was stirred for 2 hours at room temperature. The reaction was quenched by addition of 1 mL of methanol, the solvents removed, and the residue purified by chromatography on silica gel, eluting with 200:1 to 100:1 chloroform:methanol. MS (DCI/NH3) m/e: 207 (M+H)+. 1H NMR (CDCl3, 300 MHz) δ: 83.4-8.30 (m, 1H), 8.24-8.17 (m, 1H), 7.25-7.27 (m, 2H), 4.08-4.03 (m, 1H), 3.93-3.87 (m, 1H), 2.83-2.73 (m, 1H), 2.43 (s, 3H), 2.43-2.35 (m, 1H), 2.03-1.82 (m, 2H), 1.70-1.40 (m, 2H), 1.13 (d, J=6.7 Hz, 3H).

reactant | 3-(1-methyl-2-oxo-5-(S)-pyrrolidinylmethoxy)-pyridine | CN1C(CC[C@H]1COC=1C=NC=CC1)=O | C11H14N2O2
reactant | methyl lithium | 6.6 mmol, 4.71 mL | C[Li]
solvent | ether | 50 mL | CCOCC | C4H10O
product | 3-((1,5-dimethyl-2-(S)-pyrrolidinyl)methoxy)pyridine | CN1[C@@H](CCC1C)COC=1C=NC=CC1 | C12H18N2O
